US06087380
1-Methyl-2-[N-[4-(N-benzoylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride and benzoyl chloride. Yield: 88% of theory, C34H32N6O4 (588.7) Rf value: 0.37 (silica gel; dichloromethane/ethanol=19:1) 1H-NMR spectrum (D6 -DMSO): 2.61 (t,2H), 3.54 (s,3H), 3.76 (s,3H), 4.10 (t,2H), 4.61 (d,2H), 6.83 (d,2H), 7.05 to 7.55 (m,12H),8.03 (d,2H), 8.25 (dd,2H), 8.98 (s,1H), 10.48 (s,1H)

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-[4-(N-benzoylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | Yield: 88% | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(C2=CC=CC=C2)=O)=N)C)C=C1)CCC(=O)OC | C34H32N6O4
